US08017775B2
2,2,4-Trimethyl-1,2-dihydro-6-oxa-1-azachrysen-5-one (Reference Compound No. 1-1)
In a pressure tube, 8-aminobenzo[c]chromen-6-one (Reference Compound No. 1-1-(2), 8.81 g, 41.7 mmol) was dissolved in acetone (300 mL), then iodine (4.24 g, 16.7 mmol) was added thereto, then the pressure tube was sealed, and then the reaction mixture was stirred at 105° C. for 2 days. After cooling down, the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled reference compound (4.83 g) as a yellow solid. (Yield 40%)

reactant | 8-aminobenzo[c]chromen-6-one | NC=1C=CC2=C(C(OC3=CC=CC=C23)=O)C1 | C13H9NO2
reactant | iodine | 16.7 mmol, 4.24 g | II | I2
solvent | acetone | 300 mL | CC(=O)C | C3H6O
product | 2,2,4-Trimethyl-1,2-dihydro-6-oxa-1-azachrysen-5-one | 4.83 g, Yield 40% | CC1(NC2=CC=C3C4=CC=CC=C4OC(C3=C2C(=C1)C)=O)C | C19H17NO2
